US06620962B2
Synthesis of N-(2-methylphenyl)butanamide (VII)
1128.6 g of o-toluidine were initially charged in 500 ml of toluene and heated to 90° C. 134.3 g of butyryl chloride were added dropwise within 2 hours. After completed addition, the mixture was heated to reflux and stirring continued at this temperature until the end of gas formation. The mixture was cooled to 70° C., 12 ml of methanol were added and stirring was continued for an hour. To remove the methanol, the mixture was heated and 70 ml were distilled off. 300 ml of toluene were then distilled off and 400 ml of cyclohexane were added. The mixture was cooled to 10° C. and filtration gave 199.5 g (92% yield) of the product in 98% purity after drying.

reactant | o-toluidine | 1128.6 g | NC=1C(=CC=CC1)C | C7H9N
reactant | butyryl chloride | 134.3 g | C(CCC)(=O)Cl | C4H7ClO
reactant | methanol | 12 ml | CO | CH4O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-methylphenyl)butanamide | 199.5 g, 92% yield | CC1=C(C=CC=C1)NC(CCC)=O | C11H15NO
